US06211215B1
In substantially the same manner as in Working Example 138, 2-(5-bromo-4-methyl-2-thienyl)-4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]oxazole was reduced by zinc powder to give 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(4-methyl-2-thienyl)oxazole. The yield was 89%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 77-78° C.

reactant | 2-(5-bromo-4-methyl-2-thienyl)-4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]oxazole | BrC1=C(C=C(S1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C=NC=C1)C | C22H22BrN3O2S
catalyst | zinc | [Zn] | Zn
product | 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(4-methyl-2-thienyl)oxazole | yield was 89% | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(OC2)C=2SC=C(C2)C)C=C1 | C22H23N3O2S
